US05194442
7-nitro-trans-5-(5-chloro-1,2-dihydro-2-oxo-pyrid-1-yl)-2,3,4,5-tetrahydro-1-benzoxepin-4-ol
6.63 g (21 mmol) of tetrabutylammonium fluoride trihydrate are added to a stirred mixture of 3.93 g (19 mmol) of 4,5-epoxy-7-nitro-2,3,4,5-tetrahydro-1-benzoxepin and 8.06 g (40 mmol) of 5-chloro-2-trimethylsilyl-pyridine, and the mixture is heated at 60° C. for 5 hours. The mixture is then stirred into ice-water and extracted several times with ethyl acetate. The combined ethyl acetate extracts are washed with water and saturated sodium chloride solution dried over sodium sulfate, filtered and evaporated in vacuo. The remaining viscous oil crystallizes after standing for some time. It is triturated with ethyl acetate and filtered off with suction. Crystals of melting point 219°-222° C. are obtained.

reactant | tetrabutylammonium fluoride trihydrate | 21 mmol, 6.63 g | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 4,5-epoxy-7-nitro-2,3,4,5-tetrahydro-1-benzoxepin | 19 mmol, 3.93 g | O1C2CCOC3=C(C21)C=C(C=C3)[N+](=O)[O-] | C10H9NO4
reactant | 5-chloro-2-trimethylsilyl-pyridine | 40 mmol, 8.06 g | ClC=1C=CC(=NC1)[Si](C)(C)C | C8H12ClNSi
product | 7-nitro-trans-5-(5-chloro-1,2-dihydro-2-oxo-pyrid-1-yl)-2,3,4,5-tetrahydro-1-benzoxepin-4-ol | [N+](=O)([O-])C=1C=CC2=C([C@H]([C@@H](CCO2)O)N2C(C=CC(=C2)Cl)=O)C1 | C15H13ClN2O5
